US07982036B2
Synthesis of N-(5-Amino-2-methylphenyl)-N′-(3-chloro-4-fluorophenyl)-pyrimidine-4,6-diamine (Int-F) A mixture of 4-(3-chloro-4-fluorophenyl)-6-chloropyrimidin-4-ylamine (IR-4) (1.2 g, 4.6 mmol), 2-methyl-5-nitroaniline (0.85 g, 5.5 mmol) and 1 mL of concentrated HCl in 10 mL of n-butanol was heated at 120° C. for 16 h. With stirring, 5 mL of EtOAc was added to the reaction mixture. The light yellow colored product that precipitated was filtered and dried under vacuum to give N-(3-chloro-4-fluorophenyl)-N′-(2-methyl-5-nitrophenyl)pyrimidine-4,6-diamine. MS (APCI) (m/z): 374/376 (M+1). A mixture of N-(3-chloro-4-fluorophenyl)-N′-(2-methyl-5-nitrophenyl)pyrimidine-4,6-diamine (0.55 g, 1.5 mmol) and iron powder (35 mesh, 0.5 g, 5 eq) in 5 mL of HOAc and 2 mL of MeOH was heated at reflux for 2 h. The solvent was removed in vacuo and the dark colored residue was mixed with 150 mL of CH2Cl2 and 15 mL of sat. K2CO3 solution and was stirred at room temperature for 30 min. The organic layer was dried (MgSO4), was concentrated, and was then purified by flash chromatography (silica gel, MeOH/NH4OH/CH2Cl2) to afford 0.115 g of N-(5-amino-2-methylphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine as a light colored solid. (Int-F) MS (m/z): 344/346 (M+1).

reactant | N-(3-chloro-4-fluorophenyl)-N′-(2-methyl-5-nitrophenyl)pyrimidine-4,6-diamine | 1.5 mmol, 0.55 g | ClC=1C=C(C=CC1F)NC1=NC=NC(=C1)NC1=C(C=CC(=C1)[N+](=O)[O-])C | C17H13ClFN5O2
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | iron | 0.5 g, 5 eq | [Fe] | Fe
product | N-(5-amino-2-methylphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine | 0.115 g | NC=1C=CC(=C(C1)NC1=NC=NC(=C1)NC1=CC(=C(C=C1)F)Cl)C | C17H15ClFN5
